US09315521B2
To a 0° C. solution of 4-methyl-1-(propan-2-yl)-1H-imidazole-5-carbaldehyde (924 mg, 6.1 mmol) in anhydrous methanol (75 mL) was added sodium borohydride (425 mg, 11.2 mmol). The reaction mixture was stirred at room temperature for 3 hours. Water (20 mL) was added. Methanol was evaporated. The resultant mixture was extracted with EtOAc (1×20 mL) and 2-butanol (2×20 mL). The solution was dried over MgSO4, filtered, evaporated, and dried in vacuo, affording [4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methanol (703 mg, 75% yield). The product was used without further purification.

reactant | 4-methyl-1-(propan-2-yl)-1H-imidazole-5-carbaldehyde | 6.1 mmol, 924 mg | CC=1N=CN(C1C=O)C(C)C | C8H12N2O
reactant | sodium borohydride | 11.2 mmol, 425 mg | [BH4-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | methanol | 75 mL | CO | CH4O
product | [4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methanol | 703 mg, 75% yield | CC=1N=CN(C1CO)C(C)C | C8H14N2O
